US08076336B2
1-[3-tert-Butyl-5-(3-hydroxypropoxy)phenyl]ethanone
3-tert-Butyl-N-methoxy-N-methyl-5-[3-(tetrahydropyran-2-yloxy)propoxy]benzamide (O3.059; 5.49 g) was dissolved in THF (100 ml), cooled to 0° C. and admixed with lithium bis(trimethylsilyl)amide (14.47 ml, 1 M in MTB ether). After stirring at 0° C. for 30 min, methylmagnesium bromide (9.65 ml, 3 M in ether) was added dropwise. The cooling bath was removed and, after stirring at RT for 2 h, the mixture was diluted with water and extracted by shaking with EA. The EA phase was dried over magnesium sulfate, filtered and concentrated by rotary evaporation. The residue was purified using silica gel (200 g, n-heptane/EA 4:1). 3.4 g of the title compound were obtained.

reactant | 3-tert-Butyl-N-methoxy-N-methyl-5-[3-(tetrahydropyran-2-yloxy)propoxy]benzamide | 5.49 g | C(C)(C)(C)C=1C=C(C(=O)N(C)OC)C=C(C1)OCCCOC1OCCCC1 | C21H33NO5
reactant | lithium bis(trimethylsilyl)amide | 1 M, 14.47 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methylmagnesium bromide | 3 M, 9.65 ml | C[Mg]Br
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-[3-tert-Butyl-5-(3-hydroxypropoxy)phenyl]ethanone | 3.4 g | C(C)(C)(C)C=1C=C(C=C(C1)OCCCO)C(C)=O | C15H22O3
